US05470855
ii--5-chloro 3-(2,4,6-trimethylphenyl)1,2,4-thiadiazole
2.2 g of trichloromethanesulfenyl chloride are introduced into a solution of 2 g of 2,4,6-trimethyl benzamidine in 16 ml of dichloromethane under an inert atmosphere at about -20° C., followed by the slow addition of 2 g of NaOH dissolved in 3.2 ml of water at about -10° C. After I hour at about -5° C., the precipitate formed is isolated and the organic phase is separated and washed with 6 ml of water. After being dried over K2CO3, it is concentrated under reduced pressure to give 2.8 g of the desired product in the form of an oil, which may be used without purification.

reactant | trichloromethanesulfenyl chloride | 2.2 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | 2,4,6-trimethyl benzamidine | 2 g | CC1=C(C(=N)N)C(=CC(=C1)C)C | C10H14N2
reactant | NaOH | 2 g | [OH-].[Na+]
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | water | 3.2 ml | O | H2O
product | 5-chloro 3-(2,4,6-trimethylphenyl)1,2,4-thiadiazole | 2.8 g | ClC1=NC(=NS1)C1=C(C=C(C=C1C)C)C | C11H11ClN2S
